US07700641B2
Synthesis of 1′-[(3,5-dimethylisoxazol-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 4-(chloromethyl)-3,5-dimethylisoxazole to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (35%) as a colorless solid: mp 165-167° C.; 1H NMR (300 MHz, CDCl3) δ 7.24 (t, 1H), 7.16 (d, 1H), 7.05 (t, 1H), 6.72 (d, 1H), 6.50 (s, 1H), 6.05 (s, 1H), 5.85 (d, 2H), 4.75 (ABq, 2H), 4.67 (ABq, 2H), 2.46 (s, 3H), 2.22 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.5, 167.1, 159.1, 156.1, 149.1, 142.4, 141.7, 131.8, 129.0, 124.3, 123.8, 118.9, 108.8, 108.6, 102.9, 101.6, 93.8, 80.6, 58.2, 33.3, 11.5, 10.7; MS (ES+) m/z 391.3 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-[(3,5-dimethylisoxazol-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | CC1=NOC(=C1CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)C | C22H18N2O5
